US07838547B2
5-Chloro-1′,2′,3′,4′,5′,6′-hexahydro[2,4′]bipyridinyl
Platinum dioxide (58 mg) was added to a mixture of 5-chloro-1′,2′,3′,6′-tetrahydro[2,4′]bipyridinyl (500 mg) and ethyl acetate (50 ml) under argon. The atmosphere was replaced by hydrogen and the mixture was vigorously stirred for 3 hours. The catalyst was filtered off with suction and the filtrate was concentrated. The product with the molecular weight of 196.68 (C10H13ClN2); MS (ESI): 197 (M+H+) was obtained in this way.

reactant | 5-chloro-1′,2′,3′,6′-tetrahydro[2,4′]bipyridinyl | 500 mg | ClC=1C=CC(=NC1)C=1CCNCC1 | C10H11ClN2
reactant | hydrogen | [H][H] | H2
catalyst | Platinum dioxide | 58 mg | [Pt](=O)=O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-1′,2′,3′,4′,5′,6′-hexahydro[2,4′]bipyridinyl | ClC=1C=CC(=NC1)C1CCNCC1 | C10H13ClN2
